US07884210B2
3-{2-[3-Cyclopentylmethyl-3-(4-methanesulfonyl-phenyl)-ureido]-thiazole-5-sulfonylamino}-propionic acid
The title compound was prepared via 3-{2-[3-cyclopentylmethyl-3-(4-methanesulfonyl-phenyl)-ureido]-thiazole-5-sulfonylamino}-propionic acid ethyl ester in a similar manner as described for the synthesis of {2-[3-cyclopentylmethyl-3-(4-methanesulfonyl-phenyl)-ureido]-thiazol-4-yl}-acetic acid, using cyclopentylmethyl-(4-methanesulfonyl-phenyl)-amine and 3-(2-amino-thiazole-5-sulfonylamino)-propionic acid ethyl ester the latter prepared in a similar manner as (S)-1-(2-amino-thiazole-5-sulfonyl)-pyrrolidine-2-carboxylic acid methyl ester.

reactant | 3-{2-[3-cyclopentylmethyl-3-(4-methanesulfonyl-phenyl)-ureido]-thiazole-5-sulfonylamino}-propionic acid ethyl ester | C(C)OC(CCNS(=O)(=O)C1=CN=C(S1)NC(=O)N(C1=CC=C(C=C1)S(=O)(=O)C)CC1CCCC1)=O | C22H30N4O7S3
reactant | {2-[3-cyclopentylmethyl-3-(4-methanesulfonyl-phenyl)-ureido]-thiazol-4-yl}-acetic acid | C1(CCCC1)CN(C(NC=1SC=C(N1)CC(=O)O)=O)C1=CC=C(C=C1)S(=O)(=O)C | C19H23N3O5S2
reactant | cyclopentylmethyl-(4-methanesulfonyl-phenyl)-amine | C1(CCCC1)CNC1=CC=C(C=C1)S(=O)(=O)C | C13H19NO2S
reactant | 3-(2-amino-thiazole-5-sulfonylamino)-propionic acid ethyl ester | C(C)OC(CCNS(=O)(=O)C1=CN=C(S1)N)=O | C8H13N3O4S2
reactant | (S)-1-(2-amino-thiazole-5-sulfonyl)-pyrrolidine-2-carboxylic acid methyl ester | COC(=O)[C@H]1N(CCC1)S(=O)(=O)C1=CN=C(S1)N | C9H13N3O4S2
product | 3-{2-[3-Cyclopentylmethyl-3-(4-methanesulfonyl-phenyl)-ureido]-thiazole-5-sulfonylamino}-propionic acid | C1(CCCC1)CN(C(NC=1SC(=CN1)S(=O)(=O)NCCC(=O)O)=O)C1=CC=C(C=C1)S(=O)(=O)C | C20H26N4O7S3
